US04879038
Synthesis Example 9 (Synthesis of m-chlorocinnamoyl chloride)
100 ml of benzene was added to 18.3 grams of m-chlorocinnamic acid. 12 ml of thionyl chloride was added dropwise slowly thereto at ambient temperature. The temperature was elevated to 80° C. and the heating was continued until foaming ceased. Benzene and thionyl chloride were distilled off and the residue was dried thoroughly under reduced pressure.

reactant | m-chlorocinnamic acid | 18.3 grams | ClC=1C=C(C=CC(=O)O)C=CC1 | C9H7ClO2
reactant | thionyl chloride | 12 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | m-chlorocinnamoyl chloride | ClC=1C=C(C=CC(=O)Cl)C=CC1 | C9H6Cl2O
